US05354549
Acetyloxy-phenylmethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate
Chloromethyl phenylacetate (Neuenschwander, Markus et. al., Helv. Chin. Acta, 61 (1978) 2047) (1.59 g. 8.6 mmol) in dry DMF (20 ml) is added dropwise at 50° C. to a solution of cesium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (7.28 g, 9.6 mmol) and sodium iodide (64 mg, 0.42 mmol) in dry DMF (100 ml). The precipitate is removed by filtration after stirring for 20 hours and the solvent is removed at reduced pressure. The residue is dissolved in chloroform (200 ml) and washed twice with a saturated sodium hydrogen carbonate solution and twice with water. After drying with magnesium sulfate the solvent is removed at reduced pressure to give the title compound:

reactant | Chloromethyl phenylacetate | 8.6 mmol, 1.59 g | C1(=CC=CC=C1)CC(=O)OCCl | C9H9ClO2
reactant | cesium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 9.6 mmol, 7.28 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[Cs+]
reactant | sodium iodide | 0.42 mmol, 64 mg | [I-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Acetyloxy-phenylmethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC(C1=CC=CC=C1)OC(C)=O)I)N(C)C(C)=O)I | C21H19I3N2O6
